US07622583B2
5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid ethyl-pyridin-2-yl-amide
5-Chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid (150 mg, 0.36 mmol), ethyl-pyridin-2-yl-amine (131 mg, 1.08 mmol), BOP (207 mg, 0.47 mmol), DIEA (400 μL, 2.16 mmol) were reacted according to the procedure D to provide the title compound. HPLC purification (20→90% gradient of MeCN-water) provided 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid ethyl-pyridin-2-yl-amide: MS m/z: (M+H) 519.0.

reactant | 5-Chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid | 0.36 mmol, 150 mg | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | ethyl-pyridin-2-yl-amine | 1.08 mmol, 131 mg | C(C)NC1=NC=CC=C1 | C7H10N2
reactant | BOP | 0.47 mmol, 207 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 2.16 mmol, 400 μL | CCN(C(C)C)C(C)C | C8H19N
product | 5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carboxylic acid ethyl-pyridin-2-yl-amide | C(C)N(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C1=NC=CC=C1 | C20H15Cl2F3N4O3S
